US04202978
1-(2-Bromoethoxy)-4-(2-propenyloxy)benzene
To a solution of 45.0 g of 4-(2-bromoethoxy)-phenol (0.207 mol) in 310 ml of acetone was added 54 ml of allyl bromide (0.619 mol) and 45.0 g of anhydrous potassium carbonate (0.326 mol). The reaction mixture was stirred under reflux for eleven hours and was cooled and poured into 2500 ml of water. The mixture was extracted twice with 3:1 ether:methylene-chloride, and the organic layers were washed twice with 1 N NaOH, once with H2O, dried (Na2SO4) and concentrated to dryness under reduced pressure to yield a colorless oil. The analytical sample was prepared by crystallization from hexane to give colorless crystals, mp 27°-28°.

reactant | 4-(2-bromoethoxy)-phenol | 0.207 mol, 45.0 g | BrCCOC1=CC=C(C=C1)O | C8H9BrO2
reactant | allyl bromide | 0.619 mol, 54 ml | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.326 mol, 45.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2500 ml | O | H2O
solvent | acetone | 310 ml | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
product | 1-(2-Bromoethoxy)-4-(2-propenyloxy)benzene | BrCCOC1=CC=C(C=C1)OCC=C | C11H13BrO2
